US04450230
Preparation of methylolacrylamide-ethylacrylate copolymer
56 g of N-methylolacrylamide were dissolved in 1000 ml of ethanol, then added with 23 ml of ethylacrylate and 0.36 g of dibenzoylperoxide and heated to reflux for 6 hours while stirring under nitrogen atmosphere. After cooling the reaction mixture was poured into acetone under good stirring. The polymer was filtered, washed and dried as usual. Yield: 62 g. Analytical results: free CH2O: absent; total CH2O: 19.10%; [η]: 0.12 dl/g in NaNO3N at 30° C.

reactant | N-methylolacrylamide | 56 g | C(O)NC(C=C)=O | C4H7NO2
reactant | ethylacrylate | 23 ml | C(C)OC(C=C)=O | C5H8O2
reactant | dibenzoylperoxide | 0.36 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | CH2O | C=O | CH2O
solvent | ethanol | 1000 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | methylolacrylamide ethylacrylate | C(O)C(C(=O)N)=C.C(C)OC(C=C)=O | InChI=1S/C5H8O2.C4H7NO2/c1-3-5(6)7-4-2;1-3(2-6)4(5)7/h3H,1,4H2,2H3;6H,1-2H2,(H2,5,7)
